US07795247B2
Step 3: methyl 14-cyclohexyl-5,6,7,8-tetrahydroindolo[2,1-a][2,5]benzodiazocine-11-carboxylate
3M aqueous HCl (16 eq) was added to a solution of methyl 2-[2-(aminomethyl)phenyl]-3-cyclohexyl-1-(1,3-dioxolan-2-ylmethyl)-1H-indole-6-carboxylate in THF (0.03 M). The reaction was heated with stirring at reflux for 24 h, before being allowed to cool to RT, basified with aqueous NaOH (2N) and extracted into EtOAc (3 times). The combined organics were washed with water, brine, dried over Na2SO4, filtered and concentrated in vacuo to afford the crude intermediate as a yellow oil. This oil was taken up immediately in MeOH (0.1 M, 1 eq) and the solution acidified to pH 4 with glacial acetic acid. After stirring for 20 min, NaCNBH3 (1.3 eq) was added and the reaction stirred for a further 1 h. The reaction was quenched by addition of sat. aq. NaHCO3 and extracted into EtOAc (×3). The combined organic extracts were washed with brine before being dried over Na2SO4, filtered and concentrated in vacuo. Purification by flash column chromatography (2.5% MeOH/0.5% Et3N/CH2Cl2) gave the title compound as a pale yellow solid (46%); MS (ES+) m/z 389 (M+H)+

reactant | HCl | 3M, 16 eq | Cl | ClH
reactant | methyl 2-[2-(aminomethyl)phenyl]-3-cyclohexyl-1-(1,3-dioxolan-2-ylmethyl)-1H-indole-6-carboxylate | NCC1=C(C=CC=C1)C=1N(C2=CC(=CC=C2C1C1CCCCC1)C(=O)OC)CC1OCCO1 | C27H32N2O4
reactant | NaOH | 2N | [OH-].[Na+]
reactant | MeOH | 0.1 M, 1 eq | CO | CH4O
reactant | NaCNBH3 | 1.3 eq | [BH3-]C#N.[Na+]
solvent | THF | 0.03 M | C1CCOC1 | C4H8O
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | methyl 14-cyclohexyl-5,6,7,8-tetrahydroindolo[2,1-a][2,5]benzodiazocine-11-carboxylate | 46% | C1(CCCCC1)C=1C=2C=CC(=CC2N2C1C1=C(CNCC2)C=CC=C1)C(=O)OC | C25H28N2O2
